US07037919B1
Production of 2-methyl-2-(8-nitro-3a,4,5,9b-tetrahydro-3H-cyclopenta[c]quinolin-4-yl)-propan-1-ol
4-Nitroaniline (9.8 g), 6.5 ml of cyclopentadiene, and 5.5 ml of trifluoroacetic acid were dissolved in 70 ml of acetonitrile, and 10.0 g of hydroxypivalaldehyde was added at 0° C. After 30 minutes stirring at room temperature, the reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: hexane:ethyl acetate=1:1) to obtain 4.8 g of the captioned compound. Its physical properties are shown below.

reactant | 4-Nitroaniline | 9.8 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | cyclopentadiene | 6.5 ml | C1=CC=CC1 | C5H6
reactant | trifluoroacetic acid | 5.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydroxypivalaldehyde | 10.0 g | OCC(C=O)(C)C | C5H10O2
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 2-methyl-2-(8-nitro-3a,4,5,9b-tetrahydro-3H-cyclopenta[c]quinolin-4-yl)-propan-1-ol | 4.8 g | CC(CO)(C)C1NC=2C=CC(=CC2C2C1CC=C2)[N+](=O)[O-] | C16H20N2O3
